US07223788B2
5-Chloro-1′,2′,3′,6′-tetrahydro-[2,4′]bipyridine
A solution of tert-butyl 5-chloro-3′,6′-dihydro-2′H-[2,4′]bipyridine-1′-carboxylate (50 mg) in chloroform (2.4 ml) was mixed with hydrogen chloride (4N in dioxane; 0.8 ml) and the mixture was concentrated after 13 hours. This resulted in the product with the molecular weight of 194.67 (C10H11ClN2); MS (ESI): 195 (M+H+).

reactant | tert-butyl 5-chloro-3′,6′-dihydro-2′H-[2,4′]bipyridine-1′-carboxylate | 50 mg | ClC=1C=CC(=NC1)C=1CCN(CC1)C(=O)OC(C)(C)C | C15H19ClN2O2
reactant | hydrogen chloride | 4N, 0.8 ml | Cl | ClH
solvent | chloroform | 2.4 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-Chloro-1′,2′,3′,6′-tetrahydro-[2,4′]bipyridine | ClC=1C=CC(=NC1)C=1CCNCC1 | C10H11ClN2
